US07838517B2
Method G: 2-(2-chloropyridin-4-yl)-5,6,7,8-tetrahydro-7,7-dimethylthiazolo[5,4-c]azepin-4-one (I-4)
2-bromo-5,6,7,8-tetrahydro-6,6-dimethyl thiazolo[5,4-c]azepin-4-one (200 mg, 1.0 Eq.), 2-chloropyridine-4-boronic acid (126 mg, 1.1 Eq.), Pd2(DBA)3 (27 mg, 0.04 Eq.), K3PO4 (341 mg mg, 2.2 Eq.), were suspended/dissolved in H2O/dioxane (0.5 mL/2.5 mL) and degassed (vacuum/N2 cycles×5). Tricyclohexyl phosphine (20 mg, 0.1 Eq.) was then added, and the reaction mixture was 60° C. overnight. The reaction mixture was allowed to cool to RT, partitioned between EtOAc/H2O, and then filtered through celite. The aqueous layer was diluted with sat. Na2CO3 and extracted into EtOAc (3×50 mL). The combined organic layers were washed with brine (1×50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. Purification was achieved using column chromatography (100% EtOAc), followed by tritration in Et2O. The precipitate was then washed with pentane. The title compound was obtained as a light yellow solid (74.1 mg, 33% yield); 1H NMR (DMSO D6) 1.0 (6H, s), 3.0 (4H, m), 7.9 (1H, m), 8.0 (1H, s), 8.8 (1H, br m), 9.1 (1H, m); LC/MS M+1; (obs.) 308.1; LC/MS M−1 (obs.) 306.3.

reactant | 2-bromo-5,6,7,8-tetrahydro-6,6-dimethyl thiazolo[5,4-c]azepin-4-one | 200 mg, 1.0 Eq. | BrC=1SC=2C(NC(CCC2N1)(C)C)=O | C9H11BrN2OS
reactant | 2-chloropyridine-4-boronic acid | 126 mg, 1.1 Eq. | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
reactant | K3PO4 | 341 mg, 2.2 Eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Tricyclohexyl phosphine | 20 mg, 0.1 Eq. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | H2O dioxane | 0.5 mL | O.O1CCOCC1
catalyst | Pd2(DBA)3 | 27 mg, 0.04 Eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(2-chloropyridin-4-yl)-5,6,7,8-tetrahydro-7,7-dimethylthiazolo[5,4-c]azepin-4-one | ClC1=NC=CC(=C1)C=1SC=2C(NCC(CC2N1)(C)C)=O | C14H14ClN3OS
